US08030518B2
Step C: 4-(2,4-Dimethyl-3-nitrophenyl)butanoic acid
A suspension of 4-(2,4-dimethyl-3-nitro-phenyl)-butyric acid ethyl ester (4 g, 16.9 mmol) in 100 ml of 5% KOH was refluxed at 120° C. for 4 hours. This reaction was then cooled to 0° C. and neutralized with 10% HCl to pH 3-4. The resulting solid was filtered and washed with water. After drying under reduced pressure at 40° C., 3.19 g (80%) of pure product as a white solid was obtained. 1H-NMR δ (DMSO-d6, 300 MHz): 12.12 (brs, 1H, exchangeable with D2O), 7.26 (d, J=7.8 Hz, 1H), 7.20 (d, J=7.8 Hz, 1H), 2.61 (t, J=7.8 Hz, 2H), 2.25 (t, J=7.8 Hz, 2H), 2.17 (s, 3H), 2.13 (s, 3H), 1.70 (m, J=7.8 Hz, 2H).

reactant | 4-(2,4-dimethyl-3-nitro-phenyl)-butyric acid ethyl ester | 16.9 mmol, 4 g | C(C)OC(CCCC1=C(C(=C(C=C1)C)[N+](=O)[O-])C)=O | C14H19NO4
reactant | HCl | Cl | ClH
solvent | KOH | 100 ml | [OH-].[K+]
product | 4-(2,4-Dimethyl-3-nitrophenyl)butanoic acid | 3.19 g, 80% | CC1=C(C=CC(=C1[N+](=O)[O-])C)CCCC(=O)O | C12H15NO4
